US08497281B2
Steps 4/5: 6-methoxy-indeno[2,1-b]pyridin-9-one
Thionyl chloride (0.95 L) is added over 30 min to a solution of 3-(3-methoxy-phenyl)-pyridine-2-carboxylic acid (crude product; 2.0 kg) and N,N-dimethylformamide (34 mL) in dichloromethane (9 L) at 40° C. The addition vessel is rinsed with dichloromethane (1 L) and the solution is stirred at 40° C. for 2 h. The solution is diluted with toluene (10 L) and most of the solvent is evaporated (residual toluene ca. 2 L). Dichloromethane (10 L) is added to obtain a homogeneous solution. The solution is heated to 35° C. and added over 30 min to a vessel charged with aluminum chloride (1.75 kg) and dichloromethane (10 L) while keeping mild reflux. The mixture is stirred at 40° C. for 30 min and then cooled to 0° C. Water (4 L) is added at such a rate that the solution temperature maintained below 40° C. The aqueous layer is adjusted to pH value 2.5-3.5 using 2 M aqueous NaOH solution and the resulting mixture is stirred for 15 min. The organic layer is separated and the aqueous layer is extracted with dichloromethane (2×). The combined organic phase is concentrated (to ca. 10 L) and toluene (10 L) is added to the residue. The residual amount of dichloromethane is evaporated and the precipitate is separated and washed with toluene (2 L) and heptane (4 L) and dried under vacuum to give the title compound.

reactant | Thionyl chloride | 0.95 L | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(3-methoxy-phenyl)-pyridine-2-carboxylic acid | 2.0 kg | COC=1C=C(C=CC1)C=1C(=NC=CC1)C(=O)O | C13H11NO3
reactant | aluminum chloride | 1.75 kg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | dichloromethane | 9 L | ClCCl | CH2Cl2
solvent | dichloromethane | 10 L | ClCCl | CH2Cl2
solvent | Water | 4 L | O | H2O
solvent | N,N-dimethylformamide | 34 mL | CN(C=O)C | C3H7NO
product | 6-methoxy-indeno[2,1-b]pyridin-9-one | COC=1C=CC=2C(C3=NC=CC=C3C2C1)=O | C13H9NO2
